* My PWM Controller
.subckt MyPWMC VIN N_INV INV +CL -CL SD GND COMP SWO -DR +DR VREF
V1 SWO 0 PULSE(0.6 3.8 0 {0.99*1/f} {0.01*1/f} 0 {1/f})
XU1 COMP SWO VIN 0 pwm MyComparator
XU2 N_INV INV COMP MyOTA Ri=10e6 Ro=5e6 gm=2e-3 Fo=200
V3 VB5 0 5
E2 +DR -DR pwm 0 1
XU3 +CL thr VIN COMP 0 MyComparatorOC
R3 VREF VB5 10
V4 -CL thr 200m
R4 base sd1 200
R5 sd1 SD 1k
R6 0 sd1 10k
Q1 COMP base 0 0 NPN
V2 -lim 0 1.2
D1 -lim COMP D
V5 +lim 0 4.8
D2 COMP +lim D
.model D D
.model NPN NPN
.lib MyComparator.sub
.lib MyComparatorOC.sub
.lib MyOTA.sub
.ends MyPWMC
